US04839379
(a) 1-(3-Aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
Following the procedure of Example 1, 600 mg of 1-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione are dissolved in 30 ml of ethanol and reduction is carried out with hydrogen in the presence of 60 mg of 5% palladium/carbon. When the hydrogenation is complete, the mixture is diluted with ethanol and the catalyst is removed by filtration over HYFLO-Super-Cel®. The solvent is stripped off in vacuo and the residue is recrystallised from a mixture of ethyl acetate/petroleum ether, affording the title compound in the form of pale pink crystals with m.p. 135°-137° C. and an Rf value of 0.47 on thin-layer silica gel plates in the system methylene chloride/methanol (10:1), or 0.52 in methylene chloride/methanol/glacial acetic acid (40:5:1).

reactant | 1-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 600 mg | [N+](=O)([O-])C=1C=C(C=CC1)C12C(NC(C2C1)=O)=O | C11H8N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 60 mg | [Pd] | Pd
product | 1-(3-Aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | NC=1C=C(C=CC1)C12C(NC(C2C1)=O)=O | C11H10N2O2
